US05861417
Combine 3-phenyl-3-(2-hydroxyethyl)pyrrolidine (99.2 g, 659 mmol) and ethanol (2.5 L). Heat to reflux. Add a refluxing solution of (R,R)-di-p-anisoyltartaric acid (212 g, 507 mmol) in ethanol (5.07 L). After the addition is complete, slowly cool to ambient temperature with stirring to give an oil. Dissolve the oil in ethanol at reflux (595 mL) and add a refluxing solution of (R,R)-di-p-anisoyltartaric acid (49.2 g) in ethanol (1.1 L). Cool to ambient temperature with stirring to give a solid. Collect the solid by filtration and recrystallize from ethanol (3.2 L) to give a second solid. Collect the second solid by filtration and recrystallize from ethanol (2.6 L), seed with (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt to give (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt (121 g).

reactant | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 659 mmol, 99.2 g | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
reactant | (R,R)-di-p-anisoyltartaric acid | 507 mmol, 212 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | (R,R)-di-p-anisoyltartaric acid | 49.2 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
solvent | ethanol | 5.07 L | C(C)O | C2H6O
solvent | ethanol | 1.1 L | C(C)O | C2H6O
solvent | ethanol | 2.5 L | C(C)O | C2H6O
product | (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | 121 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.C1(=CC=CC=C1)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H17NO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;14-9-7-12(6-8-13-10-12)11-4-2-1-3-5-11/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-5,13-14H,6-10H2/t19-,20-;/m1./s1
